US09227982B2
N-(2-Hydroxy-ethyl)-N-(4-oxo-3,5,7,8-tetrahydro-4H-pyrano[4,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide
To a solution of 2-((2-(tert-butyldimethylsilyloxy)ethylamino)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one (10 mg, 0.029 mmol) in dichloromethane (0.1 mL) was added 3-phenylpropanoyl chloride (4.4 μL, 0.029 mmol) and then triethylamine (12 μL, 0.088 mmol) at 0° C. The mixture was stirred at 0° C. to ambient temperature for 24 h. Tetra-N-butylammonium fluoride (29 μL, 0.029 mmol, 1 M in THF) was added and the reaction was stirred at ambient temperature for 1 h. The mixture was concentrated in vacuo then purified via prep thin layer chromatography to provide the title compound (2.3 mg, 22% yield). 1H NMR (400 MHz, CDCl3) δ 7.18-7.34 (m, 3H), 7.14 (d, J=7.5 Hz, 2H), 4.56 (s, 2H), 4.38 (s, 2H), 3.95 (t, J=5.5 Hz, 2H), 3.65-3.82 (m, 2H), 3.58 (t, J=4.5 Hz, 2H), 2.87-3.06 (m, 2H), 2.81 (t, J=7.5 Hz, 2H), 2.67 (br. s., 2H). HRMS calculated for C19H23N3O4 358.1767. found (ESI, [M+H]+), 358.1767. Retention time=0.99 min.

reactant | 2-((2-(tert-butyldimethylsilyloxy)ethylamino)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one | 0.029 mmol, 10 mg | [Si](C)(C)(C(C)(C)C)OCCNCC=1NC(C2=C(N1)CCOC2)=O | C16H29N3O3Si
reactant | 3-phenylpropanoyl chloride | 0.029 mmol, 4.4 μL | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | triethylamine | 0.088 mmol, 12 μL | C(C)N(CC)CC | C6H15N
reactant | Tetra-N-butylammonium fluoride | 0.029 mmol, 1 M, 29 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | dichloromethane | 0.1 mL | ClCCl | CH2Cl2
product | N-(2-Hydroxy-ethyl)-N-(4-oxo-3,5,7,8-tetrahydro-4H-pyrano[4,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide | 2.3 mg, 22% yield | OCCN(C(CCC1=CC=CC=C1)=O)CC=1NC(C2=C(N1)CCOC2)=O | C19H23N3O4
